US04281012
322 ml of an ether solution titrating 1.12 M/liter of benzyl magnesium chloride were added over one hour to a solution of 34 g of 5-chloro-2-hydroxy-benzophenone in 150 ml of benzene and the mixture was allowed to stand for one hour and was then stirred at 20° C. for 16 hours. The mixture was poured into one liter of aqueous saturated ammonium chloride solution and the mixture was washed with water and was extracted 3 times with 400 ml of ether. The ether phase was dried over magnesium sulfate and was evaporated to dryness under reduced pressure. The residue was taken up in 100 ml of cyclohexane and the mixture stood for 16 hours at 20° C. and was iced and vacuum filtered to obtain 42.9 g of 5-chloro-2-hydroxy-α-benzyl-α-phenyl-benzene methanol melting at 128° C.

reactant | ether | 322 ml | CCOCC | C4H10O
reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | 5-chloro-2-hydroxy-benzophenone | 34 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)O | C13H9ClO2
reactant | ammonium chloride | one liter | [Cl-].[NH4+]
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 5-chloro-2-hydroxy-α-benzyl-α-phenyl-benzene methanol | 42.9 g | ClC=1C=CC(=C(C1)C(O)(C1=CC=CC=C1)CC1=CC=CC=C1)O | C20H17ClO2
